US07057052B2
To a solution of 2,5-dichloro-1,4-benzoquinone (0.177 g, 1.00 mmol) in AcOH (2 mL) was added 2-(1methyl-cyclopropyl)indole (0.081 g, 0.47 mmol). After the reaction mixture was stirred for 2 h at 50° C. under nitrogen protection, Ag2CO3 on Celite® (50%, 0.500 g, 0.90 mmol) was added. After stirring for 4 h at room temperature, the solution was diluted with ethyl acetate (100 mL). The organic layer was washed with sat. NaHCO3 (3×20 mL) and brine (20 mL), and dried over Na2SO4. The solution was concentrated and purified by flash column chromatography using 15% EtOAc in hexane as eluent to afford 2,5-dichloro-3-[2-(1-methyl-cyclopropyl)-1H-indol-3-yl]-[1,4]benzoquinone (0.148 g, 90%) as blue needles from benzene/hexane. Melting Point 170–171° C. 1H NMR (d6-acetone): 0.53–0.60 (1H, m), 0.64–0.70 (1H, m), 0.70–0.77 (1H, m), 0.92–0.98 (1H, m), 1.48 (3H, s), 7.01 (1H, dt, J=1.2, 7.5 Hz), 7.10 (1H, dt, J=1.2, 7.5 Hz), 7.24 (1H, dd, J=0.6, 7.2 Hz), 7.37 (1H, d, J=7.8 Hz), 7.39 (1H, s), 10.70 (1H, s). 13C NMR (d6-acetone): 13.3, 14.1, 15.1, 24.5, 103.6, 111.4, 119.7, 119.9, 121.9, 126.8, 133.8, 136.0, 140.4, 140.8, 143.9, 144.0, 177.1, 177.9. IR (KBr): 3409, 3059, 3004, 2966, 2927, 1662, 1620, 1567, 1435, 1270, 1241, 1028, 755 cm−1. Anal. Calcd. for C18H13Cl2NO2: C, 62.45; H, 3.78; N, 4.05. Found: C, 62.30; H, 3.77; N, 3.94.

reactant | 2,5-dichloro-1,4-benzoquinone | 1.00 mmol, 0.177 g | ClC=1C(C=C(C(C1)=O)Cl)=O | C6H2Cl2O2
reactant | 2-(1methyl-cyclopropyl)indole | 0.47 mmol, 0.081 g | CC1(CC1)C=1NC2=CC=CC=C2C1 | C12H13N
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2,5-dichloro-3-[2-(1-methyl-cyclopropyl)-1H-indol-3-yl]-[1,4]benzoquinone | 0.148 g, 90% | ClC=1C(C=C(C(C1C1=C(NC2=CC=CC=C12)C1(CC1)C)=O)Cl)=O | C18H13Cl2NO2
